US08877934B2
Step E: N-[2-Methyl-6-(2-methylbutoxy)-4-pyridyl]ethane-1,2-diamine
N-(2-Chloro-6-methyl-4-pyridyl)ethane-1,2-diamine (0.205 g, 1.2 mmol) was combined with the sodium salt of 2-methylbutan-1-ol (0.66 g, 6 mmol, that had been obtained by treating 2-methylbutan-1-ol with sodium hydride dispersion in THF), diphenylether (2.2 g) and DMSO (0.75 ml). The mixture was heated at 160° C. for 16 hours and purified by column chromatography (silica, ethyl acetate/methanol, 1% concentrated NH3) to yield 200 mg of a brown oil (0.84 mmol, 70%). MS (APCI) m/z=237.9 [M+1]+.

reactant | N-(2-Chloro-6-methyl-4-pyridyl)ethane-1,2-diamine | 1.2 mmol, 0.205 g | ClC1=NC(=CC(=C1)NCCN)C | C8H12ClN3
reactant | sodium | [Na] | Na
reactant | 2-methylbutan-1-ol | 6 mmol, 0.66 g | CC(CO)CC | C5H12O
reactant | diphenylether | 2.2 g | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | DMSO | 0.75 ml | CS(=O)C | C2H6OS
product | N-[2-Methyl-6-(2-methylbutoxy)-4-pyridyl]ethane-1,2-diamine | 0.84 mmol, 200 mg, 70% | CC1=NC(=CC(=C1)NCCN)OCC(CC)C | C13H23N3O
